US06416733B1
Synthesis of N-(6-(4,6-diphenyl(2-pyridyloxy))-2,2-dimethylhexyl)-3-pyridylformamide
A mixture of 6-(4,6-diphenyl(2-pyridyloxy))-2,2-dimethylhexylamine (0.14 g, 0.373 mmol), N,N-dimethylformamide (4 mL), and triethylamine (0.3 mL) was stirred at room temperature for 10 min. Succinimidyl nicotinate (0.1 g, 0.447 mmol) was added, and the mixture was stirred for 18 h. The mixture was concentrated under high vacuum, and the residue was purified using reverse-phase HPLC (water-acetonitrile containing 0.1 TFA) to afford 0.114 mg (64%) of a white powdered solid. 1H NMR (CDCl3): 8.12-6.80 (m, 16H), 4.54 (t, 2H), 3.43 (t, 2H), 1.90 (m, 6H), 1.05 (s, 6H); ESMS: Calculated for C31H33N3O2, 479.2573 Found 480.2 [M+H]+1; Rt=17.096 min (100% pure, Vydac C18 column; gradient 20 to 100% acetonitrile/water+0.1% TFA over 30 min).

reactant | 6-(4,6-diphenyl(2-pyridyloxy))-2,2-dimethylhexylamine | 0.373 mmol, 0.14 g | C1(=CC=CC=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCC(CN)(C)C | C25H30N2O
reactant | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | Succinimidyl nicotinate | 0.447 mmol, 0.1 g | C(C1=CN=CC=C1)(=O)ON1C(CCC1=O)=O | C10H8N2O4
solvent | acetonitrile water | C(C)#N.O
product | N-(6-(4,6-diphenyl(2-pyridyloxy))-2,2-dimethylhexyl)-3-pyridylformamide | C1(=CC=CC=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCC(CN(C=O)C=1C=NC=CC1)(C)C | C31H33N3O2
